US05705662
(E,E)-17β-[3-(2-Imidazolin-2-yl)hydrazono-2-methyl-1-propenyl]-5β-androstane-3β,14β-diol (I-ab)
A solution of 0.55 g of 2-hydrazino-2-imidazoline hydrobromide in 10 ml of water and 30 ml of dioxane was made acid to pH 3 with 0.1N HBr. A solution of 1.00 g of (E)-3β,14β-dihydroxy-21-methyl-5β-pregn-20-ene-21-carboxaldehyde (Prepn, 1) in 10 ml of dioxane was added at room temperature. After 3 days, the solution was evaporated to dryness under reduced pressure. The crude product was purified by flash chromatography (SiO2) using chloroform/methanol/28% ammonium hydroxide 90/10/1 as the eluant: the fractions containing the title compound were collected and evaporated to dryness. The residue was ground with ethyl acetate and ethanol to give 0.85 g of the title compound (I-ab) as a white solid.

reactant | 2-hydrazino-2-imidazoline hydrobromide | 0.55 g | Br.N(N)C=1NCCN1
reactant | HBr | 0.1N | Br | BrH
reactant | (E)-3β,14β-dihydroxy-21-methyl-5β-pregn-20-ene-21-carboxaldehyde | 1.00 g | O[C@@H]1C[C@H]2CC[C@H]3[C@]4(CC[C@H](/C=C(/C=O)\C)[C@]4(CC[C@@H]3[C@]2(CC1)C)C)O | C23H36O3
solvent | water | 10 ml | O | H2O
solvent | dioxane | 30 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | (E,E)-17β-[3-(2-Imidazolin-2-yl)hydrazono-2-methyl-1-propenyl]-5β-androstane-3β,14β-diol | 0.85 g | N1C(=NCC1)N\N=C\C(=C\[C@@H]1[C@]2(C)[C@](CC1)([C@@H]1CC[C@@H]3C[C@H](CC[C@]3(C)[C@H]1CC2)O)O)\C | C26H42N4O2
